US07253286B2
4-(4-Aminophenoxy)-6-methoxyquinoline-7-carbonitrile
6-Methoxy-4-(4-nitrophenoxy)quinoline-7-carbonitrile (290 mg) was subjected to iron reduction by the same method as in Production Example 10 to obtain the title compound (180 mg).

reactant | 6-Methoxy-4-(4-nitrophenoxy)quinoline-7-carbonitrile | 290 mg | COC=1C=C2C(=CC=NC2=CC1C#N)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H11N3O4
catalyst | iron | [Fe] | Fe
product | 4-(4-Aminophenoxy)-6-methoxyquinoline-7-carbonitrile | 180 mg | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)OC)C#N)C=C1 | C17H13N3O2
